US08222416B2
To a stirred suspension of methyl 6-aminonicotinate (10 g, 65.7 mmol) and trifluoroacetic acid silver salt (36.3 g, 164.3 mmol) in methanol (250 mL) was added iodine (41.7 g, 164.3 mmol) at 25° C. and the reaction mixture was stirred at 25° C. for 72 h. The mixture was filtered, washed with methanol and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed consecutively with a saturated sodium thiosulfate solution, brine and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to afford 6-amino-5-iodo-nicotinic acid methyl ester (13.8 g, 77%) as a light yellow solid: 1H NMR (400 MHz, CDCl3) δ ppm 3.89 (s, 3H), 5.46 (br. s., 2H), 8.47 (br. s., 1H), 8.67 (br. s., 1H).

reactant | methyl 6-aminonicotinate | 65.7 mmol, 10 g | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | iodine | 164.3 mmol, 41.7 g | II | I2
solvent | methanol | 250 mL | CO | CH4O
catalyst | trifluoroacetic acid silver salt | 164.3 mmol, 36.3 g | [Ag+].FC(C(=O)[O-])(F)F
product | 6-amino-5-iodo-nicotinic acid methyl ester | 13.8 g, 77% | COC(C1=CN=C(C(=C1)I)N)=O | C7H7IN2O2
